US06730791B2
Step H: Preparation of [4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]phenyl]methyl-propanedioic acid, dimethyl ester
Mix together [4-(4-chloro-1-oxobutyl)phenyl]methyl-propanedioic acid, dimethyl ester (300 mg, 0.92 mmol), potassium carbonate (350 mg, 2.5 mmol), α-(4-pyridyl)benzhydrol (500 mg, 1.9 mmol), water (3 mL) and toluene (7 mL). Heat the mixture to reflux. After 5 days, cool to room temperature. Add ethyl acetate and water. Wash the organic phase with brine, dry over anhydrous magnesium sulfate and concentrate. Purify by flash chromatography (150 g of silica gel, 10% methanol/chloroform as eluent) to give the title compound (387 mg, 76%).

reactant | [4-(4-chloro-1-oxobutyl)phenyl]methyl-propanedioic acid, dimethyl ester | 0.92 mmol, 300 mg | ClCCCC(=O)C1=CC=C(C=C1)CC(C(=O)OC)C(=O)OC | C16H19ClO5
reactant | potassium carbonate | 2.5 mmol, 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | α-(4-pyridyl)benzhydrol | 1.9 mmol, 500 mg | N1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C18H15NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 mL | O | H2O
product | [4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]phenyl]methyl-propanedioic acid, dimethyl ester | 387 mg, 76% | OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)CC(C(=O)OC)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H39NO6
